US07365200B2
Methyl 3-aminothiophene-2-carboxylate (31.0 g, 0.20 mol) was added to a solution of potassium hydroxide (22.68 g, 0.40 mol) in 1 L water. The solution was heated at 90° C. for 2 hours. The solution was then cooled to 0° C. and trichloromethyl chloroformate (35.7 mL, 0.30 mol) was added slowly, maintaining the temperature between 0° C. and 10° C. The solution was stirred at 0° C. for 4 hours, and then allowed to warm up gradually to room temperature and stirred for another 3 hours. The precipitated solid product was collected by vacuum filtration to give 28.5 g (85% yield) 1H-thieno[3,2-d][1,3]oxazine-2,4-dione. 1H-NMR (DMSO-d6) δ 6.94 (d, J=5.0 Hz, 1H), 8.24 (d, J=5.0 Hz, 1H), 12.26 (b, 1H) ppm; EIMS m/z 170 (M+1).

reactant | Methyl 3-aminothiophene-2-carboxylate | 0.20 mol, 31.0 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | potassium hydroxide | 0.40 mol, 22.68 g | [OH-].[K+]
reactant | trichloromethyl chloroformate | 0.30 mol, 35.7 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | water | 1 L | O | H2O
product | 1H-thieno[3,2-d][1,3]oxazine-2,4-dione | 28.5 g, 85% yield | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
